* Z:\mnt\design.r\spice\examples\3805.asc
L1 IN N003 76µ
L2 0 N001 1µ
M§Q1 N003 N005 N007 N007 Si4848DY
R1 N007 0 0.068
R2 IN N002 6.8K
D1 N001 OUT 1N5817
R3 OUT N011 105K
R4 N011 0 20K
C1 OUT 0 300µ
C2 N002 0 10µ
R5 N010 N009 56K
C3 N009 0 .0047µ
V1 IN 0 36
Rload OUT 0 5
XU1 N006 N010 N011 N004 N008 MP_01 N007 N007 N002 N005 0 LTC3805
R6 IN N004 100K
R7 N004 0 10K
R8 N008 0 118K
C4 N006 0 .01µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 22ms startup
.lib LTC3805.sub
.backanno
.end
